US08629160B2
A mixture of 2-(benzo[b]thiophen-2-yl)-2-(phenylamino)acetic acid (I30) (796 mg, 2.81 mmol), (R)-quinuclidin-3-ol (429 mg, 3.37 mmol), HOBT (516 mg, 3.37 mmol), and DCC (696 mg, 3.37 mmol) in THF (30 ml) was stirred at r.t. overnight. THF was evaporated, and the crude product was partitioned between EtOAc and 1M K2CO3. The organic phase was dried over Na2SO4, filtered and evaporated to dryness. The crude product was purified by flash chromatography (DCM/MeOH=98/2) to obtain (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-2-yl)-2-(phenylamino)acetate (361 mg, 32.7% yield).

reactant | 2-(benzo[b]thiophen-2-yl)-2-(phenylamino)acetic acid | 2.81 mmol, 796 mg | S1C2=C(C=C1C(C(=O)O)NC1=CC=CC=C1)C=CC=C2 | C16H13NO2S
reactant | (R)-quinuclidin-3-ol | 3.37 mmol, 429 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | HOBT | 3.37 mmol, 516 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 3.37 mmol, 696 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-2-yl)-2-(phenylamino)acetate | 361 mg, 32.7% yield | S1C2=C(C=C1C(C(=O)O[C@H]1CN3CCC1CC3)NC3=CC=CC=C3)C=CC=C2 | C23H24N2O2S
